US07723333B2
1-Methylpiperidin-4-yl β-alaninate hydrochloride
The title compound was prepared from 1-methylpiperidin-4-yl N-(tert-butoxycarbonyl)-β-alaninate in a similar manner as described for 2,6-dimethylphenyl 4-aminobutanoate hydrochloride. Mass Spectrum M+H+ 188.17.

reactant | 1-methylpiperidin-4-yl N-(tert-butoxycarbonyl)-β-alaninate | C(C)(C)(C)OC(=O)NCCC(=O)OC1CCN(CC1)C | C14H26N2O4
reactant | 2,6-dimethylphenyl 4-aminobutanoate hydrochloride | Cl.NCCCC(=O)OC1=C(C=CC=C1C)C
product | 1-Methylpiperidin-4-yl β-alaninate hydrochloride | Cl.NCCC(=O)OC1CCN(CC1)C | InChI=1S/C9H18N2O2.ClH/c1-11-6-3-8(4-7-11)13-9(12)2-5-10;/h8H,2-7,10H2,1H3;1H
